US06288096B1
20 g (48 mmole) 4-[phenylsulfonyloxy]phenethyl 1-benzenesulfonate, 11.7 g (95 mmole) p-hydroxybenzaldehyde and 13.27 g (96 mmole) potassium carbonate in 100 ml acetonitrile were refluxed over night. The precipitate was filtered off and the filtrate was evaporated in vacuo. Dichloromethane was added, the solid material was filtered off and the filtrate was evaporated in vacuo. The residue was purified by chromatography on silica gel using ethyl acetate:petroleum ether (1:2) as eluent to give 12 g (yield 65%) of 4-[2-(4-formylphenoxy)ethyl]phenyl 1-benzenesulfonate.

reactant | 4-[phenylsulfonyloxy]phenethyl 1-benzenesulfonate | 48 mmole, 20 g | C1(=CC=CC=C1)S(=O)(=O)OCCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1 | C20H18O6S2
reactant | p-hydroxybenzaldehyde | 95 mmole, 11.7 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 96 mmole, 13.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]phenyl 1-benzenesulfonate | 12 g, yield 65% | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C21H18O5S
